US04906621
A solution of 0.908 g of cis 1-ethoxycarbonyl-2-ethoxycarbonylpyrrolidine-3-ethanol and 1.14 g pyridinium chlorochromate in 20 ml of methylene chloride is stirred under nitrogen for 4 hours. Mixture is filtered and purified by flash chromatography using ethyl acetate/hexane (1:1) to yield cis 1-ethoxycarbonyl-2-ethoxycarbonylpyrrolidine-3-acetaldehyde.

reactant | cis 1-ethoxycarbonyl-2-ethoxycarbonylpyrrolidine-3-ethanol | 0.908 g | C(C)OC(=O)N1[C@H]([C@H](CC1)CCO)C(=O)OCC | C12H21NO5
reactant | pyridinium chlorochromate | 1.14 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | cis 1-ethoxycarbonyl-2-ethoxycarbonylpyrrolidine-3-acetaldehyde | C(C)OC(=O)N1[C@H]([C@H](CC1)CC=O)C(=O)OCC | C12H19NO5
